US07582626B2
b) (7-Iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid
2-Amino-5-iodo-benzenesulfonamide (2.0 g, 6.71 mmol) was dissolved in N,N-dimethylacetamide (5 mL) and diethyl ether (7 mL). Ethyl 3-chloro-3-oxo-propionate (0.916 g, 6.71 mmol) was added and the reaction mixture was stirred at 25° C. for 2 h. The reaction mixture was diluted with diethyl ether (10 mL) and water (20 mL). Upon mixing vigorously, a precipitate formed. The solid was collected by vacuum filtration, rinsed with 1.0 M aqueous hydrochloric acid solution (2×10 mL) and dried in vacuo for 2 h. The solid was dissolved in 8% aqueous sodium hydroxide solution (50 mL) and stirred at 100° C. for 15 min. Upon cooling to 25° C., the solution was neutralized with 6.0 M aqueous hydrochloric acid solution. Additional 1.0 M aqueous hydrochloric acid solution (20 mL) was added and the desired product precipitated. The solid was collected by vacuum filtration, rinsed with 1.0 M aqueous hydrochloric acid solution (2×10 mL) and dried in vacuo for 16 h to afford the desired product, (7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (2.0 g, 5.46 mmol, 81%) as a pale pink powder. 1H NMR (400 MHz, DMSO-d6) δ: 3.58 (3H, s), 7.13 (1H, d, J=8.5 Hz), 7.98 (1H, dd, J1=8.6 Hz, J2=1.7 Hz), 8.03 (1H, d, J=2.5 Hz), 12.33 (1H, bs), 13.05 (1H, bs). LC-MS (ESI) calcd for C9H7IN2O4S 365.92, found 366.95 [M+H+].

reactant | 2-Amino-5-iodo-benzenesulfonamide | 6.71 mmol, 2.0 g | NC1=C(C=C(C=C1)I)S(=O)(=O)N | C6H7IN2O2S
reactant | Ethyl 3-chloro-3-oxo-propionate | 6.71 mmol, 0.916 g | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | water | 20 mL | O | H2O
product | (7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 5.46 mmol, 2.0 g, 81% | IC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C9H7IN2O4S
